US07351719B2
Z12b) 1-(2-diethylamino-ethyl )-2,3-dihydro-1H-indol-5-ylamine
Under a nitrogen atmosphere 12.5 mL (0.090 mol) of 3-N,N-diethylamino-propyne was added to 25.00 g (0.106 mol) of 4-bromo-3-chloro-nitrobenzene, 43.7 mL (0.315 mol) of triethylamine, 10.40 g (0.009 mol) of tetrakis[triphenylphosphine]-palladium(II) and 1.71 g (0.009 mol) of copper(I)-iodide in 250 mL acetonitrile and the mixture was refluxed for 18 hours. The reaction mixture was evaporated down i. vac., combined with EtOAc and the organic phase was washed with water. The org. phase was evaporated down i. vac. and the residue was purified by column chromatography (silica gel, petroleum ether/EtOAc 10:0→4:1) followed by column chromatography (silica gel, dichloromethane).

reactant | 4-bromo-3-chloro-nitrobenzene | 0.106 mol, 25.00 g | BrC1=C(C=C(C=C1)[N+](=O)[O-])Cl | C6H3BrClNO2
reactant | triethylamine | 0.315 mol, 43.7 mL | C(C)N(CC)CC | C6H15N
reactant | acetonitrile | 250 mL | C(C)#N | C2H3N
catalyst | copper(I)-iodide | 0.009 mol, 1.71 g | [Cu]I
product | 1-(2-diethylamino-ethyl )-2,3-dihydro-1H-indol-5-ylamine | C(C)N(CCN1CCC2=CC(=CC=C12)N)CC | C14H23N3
